US09422293B2
[2-Piperidin-1-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine
4-Chloro-2-piperidin-1-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine. To a solution of 2-piperidin-1-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-ol (435 mg, 1.11 mmol) in CH3CN (9 mL) was added POCl3 (0.41 mL, 4.43 mmol). After 1.5 h at 80° C., the mixture was cooled to rt, diluted with EtOAc, and quenched slowly with satd. aq. NaHCO3. The organic layers were combined, dried (Na2SO4), and concentrated. The crude residue was purified (FCC) to give the title compound (160 mg, 35%).

reactant | 4-Chloro-2-piperidin-1-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine | ClC1=NC(=NC=2CCN(CCC21)C2=NC=CC=C2C(F)(F)F)N2CCCCC2 | C19H21ClF3N5
reactant | 2-piperidin-1-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-ol | 1.11 mmol, 435 mg | N1(CCCCC1)C=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)O | C19H22F3N5O
reactant | POCl3 | 4.43 mmol, 0.41 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | CH3CN | 9 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [2-Piperidin-1-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine | 160 mg, 35% | N1(CCCCC1)C=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)NC1=CC=C(C=C1)C(F)(F)F | C26H26F6N6
